US08242104B2
To a mixture of 8-bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid (1.92 g, 6.2 mmol) and N′-isopropyl-hydrazinecarboxylic acid tert-butyl ester (1.30 g, 7.5 mmol) in DMF (20 mL) at 0° C. was added DIPEA (2.70 mL, 15.5 mmol) and HATU (3.54 g, 9.3 mmol). The reaction mixture was stirred for 7 h at RT before the addition of DMF (40 mL) and stirring overnight. The reaction mixture was concentrated in vacuo and the resultant residue partitioned between DCM and water. The aqueous phase was extracted with DCM (×2) before the combined organic extracts were washed sequentially with 10% citric acid solution, saturated sodium bicarbonate solution then brine, dried (Na2SO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-90% ethyl acetate in cyclohexane) to give N′-(8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonyl)-N′-isopropyl-hydrazinecarboxylic acid tert-butyl ester as a white solid (3.02 g, quantitative yield). LCMS RT=4.76 min, [M+H]+=465/467. 1H NMR 400 MHz (DMSO-d6) δ: 8.62 (1H, s), 8.40 (1H, d, J=8.59 Hz), 7.69 (1H, s), 7.23-7.22 (2H, m), 4.81 (1H, s), 4.44 (4H, s), 1.32 (9H, s), 1.13 (6H, d, J=6.64 Hz)

reactant | 8-bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid | 6.2 mmol, 1.92 g | BrC1=CC2=C(C3=NC(=CN3CCO2)C(=O)O)C=C1 | C12H9BrN2O3
reactant | N′-isopropyl-hydrazinecarboxylic acid tert-butyl ester | 7.5 mmol, 1.30 g | C(C)(C)(C)OC(=O)NNC(C)C | C8H18N2O2
reactant | DIPEA | 15.5 mmol, 2.70 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 9.3 mmol, 3.54 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | N′-(8-Bromo-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carbonyl)-N′-isopropyl-hydrazinecarboxylic acid tert-butyl ester | 3.02 g, quantitative yield | C(C)(C)(C)OC(=O)NN(C(C)C)C(=O)C1=CN2CCOC3=C(C2=N1)C=CC(=C3)Br | C20H25BrN4O4
